US07294628B2
A) 1-Benzyl-4-[4-(trifluoromethyl)phenyl]-4-piperidinol.
This compound is prepared by the procedure described in step A of preparation 1.7, from 1.55 g of magnesium in 25 ml of THF, a solution of 14.25 g of 1-bromo-4-(trifluoromethyl)benzene in 15 ml of THF and a solution of 10 g of 1-benzyl-4-piperidinone in 30 ml of THF. This gives 7.3 g of the expected product.

reactant | magnesium | 1.55 g | [Mg] | Mg
reactant | 1-bromo-4-(trifluoromethyl)benzene | 14.25 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | 1-benzyl-4-piperidinone | 10 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-4-[4-(trifluoromethyl)phenyl]-4-piperidinol | 7.3 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC=C(C=C1)C(F)(F)F | C19H20F3NO
